US06034272
A mixture of γ-phenyl-γ-butyrolactone (10.0 g, 61.7 mmol) and isopropylamine (50 ml, 587 mmol) was stirred at room temperature for approximately 26 hours. The solvent was removed under reduced pressure to give 4-hydroxy-N-isopropyl-4-phenyl-butyramide (13.71 g, 100%) as a yellow solid, mp 131-135° C.

reactant | γ-phenyl-γ-butyrolactone | 61.7 mmol, 10.0 g | C1(=CC=CC=C1)C1CCC(=O)O1 | C10H10O2
reactant | isopropylamine | 587 mmol, 50 ml | C(C)(C)N | C3H9N
product | 4-hydroxy-N-isopropyl-4-phenyl-butyramide | 13.71 g, 100% | OC(CCC(=O)NC(C)C)C1=CC=CC=C1 | C13H19NO2
